US07824582B2
Synthesis of 2,6-di-tert-butyl-4-vinyl-phenol (12).
A solution of 3,5-di-tert-butyl-4-hydroxycinnamic acid (2.77 g, 10 mmol) in dry DMF (20 mL) was refluxed at 150° C. under N2 for 2 h with stirring. The resulting mixture was then poured into water (200 mL) and extracted with chloroform (100 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with hexane, to give 2.094 g (90.2%) of the title compound as a colorless solid: mp 51-51.5° C.; 1H NMR (400 MHz, CDCl3): δ 7.248 (s, 2H), 6.666 (d×d, 1H, J1=10.8 Hz, J2=17.6 Hz), 5.587 (d, 1H, J=16.8 Hz), 5.241 (s, 1H), 5.094 (d, 1H, J=10.8 Hz), 1.456 (s, 18H); 13C NMR (100 MHz, CDCl3): δ 153.980, 137.529, 136.055, 129.040, 123.216, 110.996, 34.565, 30.507; Anal. Calcd. for C16H24O: C, 82.70; H, 10.41. Found; C, 83.08; H, 10.37.

reactant | 3,5-di-tert-butyl-4-hydroxycinnamic acid | 10 mmol, 2.77 g | C(C)(C)(C)C=1C=C(C=CC(=O)O)C=C(C1O)C(C)(C)C | C17H24O3
reactant | water | 200 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2,6-di-tert-butyl-4-vinyl-phenol | 2.094 g, 90.2% | C(C)(C)(C)C1=C(C(=CC(=C1)C=C)C(C)(C)C)O | C16H24O
